US07732477B2
5-Amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-3-methyl-1-benzothiophene- 2-carboxamide dihydrochloride
317 mg (0.83 mmol) of N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-3-methyl-5-nitro-1-benzothiophene-2-carboxamide hydrochloride are suspended in 2 ml of acetic acid. 300.0 mg (4.59 mmol) of zinc are added, and the mixture is then stirred at RT for 1 h. The reaction mixture is filtered through kieselguhr, and the filter cake is washed with methanol. The filtrate is concentrated under reduced pressure and the residue is purified by preparative HPLC. The product fraction is dissolved in 4M HCl in dioxane, concentrated under reduced pressure and recrystallized from acetonitrile. 154 mg (47.8% of theory) of the title compound are obtained.

reactant | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-3-methyl-5-nitro-1-benzothiophene-2-carboxamide hydrochloride | 0.83 mmol, 317 mg | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2C)C=C(C=C1)[N+](=O)[O-]
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 4.59 mmol, 300.0 mg | [Zn] | Zn
product | 5-Amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-3-methyl-1-benzothiophene- 2-carboxamide dihydrochloride | Cl.Cl.NC=1C=CC2=C(C(=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C)C1 | InChI=1S/C17H21N3OS.2ClH/c1-10-13-8-12(18)2-3-15(13)22-16(10)17(21)19-14-9-20-6-4-11(14)5-7-20;;/h2-3,8,11,14H,4-7,9,18H2,1H3,(H,19,21);2*1H/t14-;;/m0../s1
